US04751291
(3) Preparation of 2,3,4,6-tetra-O-acetyl-α-D-mannopyranosyl fluoride
8.7 g (21.2 mmol) of 2,3,4,6-tetra-O-acetyl-α-D-mannopyranosyl bromide were dissolved in 30 ml of anhydrous acetonitrile and the solution was heated under reflux with 5.0 g (64 mmol) of potassium hydrogen difluoride. After 3 hours, the starting material was no longer detectable (TLC: methylene chloride/ether, 9:1). The solution was filtered and concentrated and the crude product was recrystallized from ether. Yield 5.74 g (77%), melting point 65°-67° C., [α]D20 =+21.2 (c=1.07 in chloroform) [A. Bertho, loc. cit.: melting point 68°-69° C., [α]DS20 =+21.5 (chloroform)]. 1H NMR (CDCl3): δ=5.58 (dd, 1-H), J1,2 =1.9, J1,F =48.4 Hz; [L. D. Hall et al., Can. J. Chem. 47, 1 (1969): δ=5.57 (dd, 1-H), J1.2 =1.7, J1,F =48.6 Hz].

reactant | 2,3,4,6-tetra-O-acetyl-α-D-mannopyranosyl bromide | 21.2 mmol, 8.7 g | C(C)(=O)O[C@@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)Br | C14H19BrO9
reactant | potassium hydrogen difluoride | 64 mmol, 5.0 g | F.[F-].[K+]
reactant | methylene chloride ether | C(Cl)Cl.CCOCC
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2,3,4,6-tetra-O-acetyl-α-D-mannopyranosyl fluoride | C(C)(=O)O[C@@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)F | C14H19FO9
